US09278910B2
Prepared using General Procedure 6: To a stirring solution of 2-(4-(methoxycarbonyl)phenyl)acetic acid (300 mg, 1.54 mmol) were added HOBt (417 mg, 3.09 mmol), EDC (593 mg, 3.09 mmol) and DIEA (539 μL, 3.09 mmol). After 1.5 h, 4-methoxy-2-(trifluoromethyl)aniline (325 mg, 1.70 mmol) was added. After stirring for 14 h, the mixture was diluted with NaHCO3 and extracted with EA. The combined organic extracts were dried (Na2SO4), concentrated, and purified by chromatography (EA/hexanes) to provide 114 mg (31%) of methyl 4-(2-((4-methoxy-2-(trifluoromethyl)phenyl)amino)-2-oxoethyl)benzoate INT-54. LCMS-ESI (m/z) calculated for C18H16F3NO4: 367; found 368 [M+H]+, tR=3.27 min (Method 1). 1H NMR (400 MHz, CDCl3) δ 8.09 (d, J=8.3 Hz, 2H), 7.91 (d, J=8.4 Hz, 1H), 7.40 (t, J=14.6 Hz, 2H), 7.13 (s, 1H), 7.09-6.96 (m, 2H), 3.92 (d, J=10.8 Hz, 3H), 3.81 (m, 5H).

reactant | 2-(4-(methoxycarbonyl)phenyl)acetic acid | 1.54 mmol, 300 mg | COC(=O)C1=CC=C(C=C1)CC(=O)O | C10H10O4
reactant | HOBt | 3.09 mmol, 417 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 3.09 mmol, 593 mg
reactant | DIEA | 3.09 mmol, 539 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-methoxy-2-(trifluoromethyl)aniline | 1.70 mmol, 325 mg | COC1=CC(=C(N)C=C1)C(F)(F)F | C8H8F3NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | methyl 4-(2-((4-methoxy-2-(trifluoromethyl)phenyl)amino)-2-oxoethyl)benzoate | 114 mg, 31% | COC1=CC(=C(C=C1)NC(CC1=CC=C(C(=O)OC)C=C1)=O)C(F)(F)F | C18H16F3NO4
